US08975417B2
Step 9.1: ethyl 4-iodo-1H-pyrazole-3-carboxylate
NIS (8.83 g, 39.2 mmol) and TFA (0.825 mL, 10.70 mmol) were added to a stirred solution of ethyl 1H-pyrazole-5-carboxylate (5 g, 35.7 mmol) in CH3CN (120 mL) under Ar. The reaction mixture was stirred for 6 hr at rt, concentrated, diluted with a saturated aqueous solution of NaHCO3, and extracted with EtOAc. The combined organic layers were washed with a saturated aq. NaHCO3 solution, dried over Na2SO4 and evaporated. The crude material was purified by silica gel column chromatography (hexane/EtOAc 10-50%) to afford the title product (8.31 g, 31.2 mmol, 88% yield) as a white solid. tR: 3.47 min (HPLC 1); tR: 0.72 min (LC-MS 2); ESI-MS: 267 [M+H]+ (LC-MS 2); Rf=0.55 (hexane/EtOAc 1:1).

reactant | NIS | 39.2 mmol, 8.83 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 10.70 mmol, 0.825 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl 1H-pyrazole-5-carboxylate | 35.7 mmol, 5 g | N1N=CC=C1C(=O)OCC | C6H8N2O2
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | ethyl 4-iodo-1H-pyrazole-3-carboxylate | 31.2 mmol, 8.31 g, 88% yield | IC=1C(=NNC1)C(=O)OCC | C6H7IN2O2
